US09403816B2
Methyl 2-(2-(benzyloxy)acetamido)-5-bromobenzoate
To a solution of methyl-2-amino-5-bromobenzoate (15 g, 62.6 mmol) in DCM (241 mL) at 0° C. was added benzyloxyacetyl chloride (12.5 mL, 75.1 mmol) followed by Et3N (20 mL, 144 mmol) dropwise. The resulting white suspension was stirred at room temperature for 3 hours. The mixture was then washed with saturated aqueous NH4Cl (200 mL) followed by water (200 mL). The organics were dried (Na2SO4), filtered and concentrated to dryness. The crude solid was triturated with MeOH (90 mL) and dried under vacuum to afford the title compound as a white solid.

reactant | methyl-2-amino-5-bromobenzoate | 62.6 mmol, 15 g | COC(C1=C(C=CC(=C1)Br)N)=O | C8H8BrNO2
reactant | benzyloxyacetyl chloride | 75.1 mmol, 12.5 mL | C(C1=CC=CC=C1)OCC(=O)Cl | C9H9ClO2
reactant | Et3N | 144 mmol, 20 mL | CCN(CC)CC | C6H15N
solvent | DCM | 241 mL | C(Cl)Cl | CH2Cl2
product | Methyl 2-(2-(benzyloxy)acetamido)-5-bromobenzoate | C(C1=CC=CC=C1)OCC(=O)NC1=C(C(=O)OC)C=C(C=C1)Br | C17H16BrNO4
